US05374643
A. 4-Aminophenyl oxadiazole
A mixture of 4-nitrophenyloxadiazole (2.87 g, 0.015 mol, prepared according to Lin et al., J. Org. Chem., 1979, 44, 4160) and SnCl2.2H2O (16.92 g, 0.075 mol) in 75 mL of ethyl acetate was heated at 75° C. for 30 minutes. The yellow reaction mixture was cooled to room temperature, poured into ice-water and the pH was made slightly basic (pH 7-8) by the addition of 5% NaHCO3. The reaction mixture was then extracted with ethyl acetate, dried over MgSO4 and concentrated in vacuo. The remaining yellow solid was triturated with hexane, collected and dried to yield 2.07 g of the title A compound, m.p. 97°-99° C. TLC, silica gel, EtOAc/hexanes (2:1), Rf =0.55; M.S. (M+H)+ at 162, M.W. 161. This compound was used without further purification.

reactant | 4-nitrophenyloxadiazole | 0.015 mol, 2.87 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=NOC1 | C8H5N3O3
reactant | SnCl2.2H2O | 0.075 mol, 16.92 g | O.O.Cl[Sn]Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 4-Aminophenyl oxadiazole | NC1=CC=C(C=C1)C=1N=NOC1 | C8H7N3O
